US06320050B1
A solution of 2-(3-chloro-phenyl)-3-cyclopentyl-propionic acid (252 mg, 1.0 mmol) in methylene chloride (10 mL) was cooled to 0° C. and then treated with a 2.0 M solution oxalyl chloride in methylene chloride (0.6 mL, 1.2 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 15 min and at 25° C. for 2 h. The reaction mixture was then treated with (2-amino-thiazol-4-yl)-acetic acid ethyl ester (409 mg, 2.2 mmol) and N,N-diisopropylethylamine (0.5 mL, 2.4 mmol). This solution was stirred at 25° C. for 48 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded {2-[2-(3-chloro-phenyl)-3-cyclopentyl-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester (254 mg, 60.3%) as a white solid: mp 121-125° C.; EI-HRMS m/e calcd for C21H25ClN2O3S (M+) 420.1274, found 420.1268.

reactant | 2-(3-chloro-phenyl)-3-cyclopentyl-propionic acid | 1.0 mmol, 252 mg | ClC=1C=C(C=CC1)C(C(=O)O)CC1CCCC1 | C14H17ClO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2-amino-thiazol-4-yl)-acetic acid ethyl ester | 2.2 mmol, 409 mg | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
reactant | N,N-diisopropylethylamine | 2.4 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1.2 mmol, 0.6 mL | C(Cl)Cl | CH2Cl2
product | {2-[2-(3-chloro-phenyl)-3-cyclopentyl-propionylamino]-thiazol-4-yl}-acetic acid ethyl ester | 254 mg, 60.3% | C(C)OC(CC=1N=C(SC1)NC(C(CC1CCCC1)C1=CC(=CC=C1)Cl)=O)=O | C21H25ClN2O3S
